2173-10-02 06:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2173-10-1**] 07:00 PM
 ERCP - At [**2173-10-1**] 08:25 PM
 INVASIVE VENTILATION - START [**2173-10-1**] 10:25 PM
 ARTERIAL LINE - START [**2173-10-1**] 11:20 PM
   - ERCP done with sphincterotomy and stent placed.  Sludge and minimal
   pus drained.
   - Remained intubated overnight due to sedation and low lung volumes
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2173-10-2**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2173-10-2**] 12:30 AM
   Pantoprazole (Protonix) - [**2173-10-2**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-10-2**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.3
C (97.3
   HR: 73 (61 - 81) bpm
   BP: 97/39(56) {96/38(54) - 142/60(87)} mmHg
   RR: 16 (14 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
             Total In:
                                                                     16 mL
                                                                    194 mL
   PO:
             TF:
   IVF:
                                                                     16 mL
                                                                    194 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                     16 mL
                                                                    194 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 34 cmH2O
   Plateau: 24 cmH2O
   Compliance: 21.1 cmH2O/mL
   SpO2: 98%
   ABG: 7.38/50/117/29/3
   Ve: 6.1 L/min
   PaO2 / FiO2: 293
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   81 K/uL
   8.3 g/dL
   75 mg/dL
   3.5 mg/dL
   29 mEq/L
   4.0 mEq/L
   28 mg/dL
   100 mEq/L
   138 mEq/L
   25.4 %
   14.5 K/uL
        [image002.jpg]
                            [**2173-10-1**]  08:22 PM
                            [**2173-10-1**]  11:50 PM
                            [**2173-10-2**]  04:19 AM
                            [**2173-10-2**]  04:29 AM
   WBC
   23.3
   14.5
   Hct
   27.6
   25.4
   Plt
   89
   81
   Cr
   3.2
   3.5
   TCO2
   31
   31
   Glucose
   82
   75
   Other labs: PT / PTT / INR:13.6/68.4/1.2, ALT / AST:[**4-1**], Alk Phos / T
   Bili:176/1.7, Amylase / Lipase:129/169, Differential-Neuts:68.7 %,
   Band:0.0 %, Lymph:20.0 %, Mono:5.3 %, Eos:5.7 %, Albumin:2.6 g/dL,
   LDH:160 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 IMPAIRED SKIN INTEGRITY
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 CHOLECYSTITIS, CALCULOUS
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
    S/p ERCP [**10-1**]
   This is a 81 year-old female with a no significant past medical hx now
   with recent complicated hospital course due to cholecystitis and ARF
   who presents for ERCP and papilotomy.
   .
   Plan:
   # cholecystitis - pt underwent successfull ercp right after admission.
   stent in place.
   - will f/u with US in am
   - cont broad abx for now
   - fluids if concern for sepsis
   .
   # ARF: will call renal in am. may not require dialysis here as she may
   go back to [**Hospital3 **] in am
   - f/u volume status
   - renaly dose meds
   - avoid nephrotoxins
   - renal diet if taking po
   .
   # respiration: pt intubated during procedure for airway protection and
   given somnolence
   - cont AC
   - early transition to PS, SBT, extubation
   - HOB>30, VAP prophylaxis
   - chest pt, nebs
   .
   # somnolence: responds to verbal stimuly: associated to IV fentanyl.
   hold opioids, consider narcane
   .
   # FEN:  npo for now
   .
   # Access: central line ok to use for now for acute issues, would avoid
   risk of new line placement if not clearly indicated. peripheral, and
   dialysis cath
   .
   # PPx:  s.c heparin, iv ppi
   .
   # Code:  discussed with daughter, ok to intubate, but no chest
   compression
   .
   # Dispo:  once stable back to osh
   .
   # Comm:  daughter[**Telephone/Fax (5) 2164**]
   Dr. [**First Name (STitle) **] from [**Hospital3 187**] or her coverage to call for transport in
   am [**Telephone/Fax (1) 2165**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2173-10-1**] 07:00 PM
   20 Gauge - [**2173-10-1**] 07:53 PM
   Arterial Line - [**2173-10-1**] 11:20 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:Transfer to other facility

2173-10-03 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2173-10-2**] 11:12 AM
   looking for gallbladder sludge
   - Held off extubation and/or transfer back to OSH
   - Final ERCP made available
   - Re-started on a B-blocker
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2173-10-3**] 03:45 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2173-10-3**] 12:07 AM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-10-3**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 67 (63 - 114) bpm
   BP: 113/43(64) {100/37(57) - 163/64(97)} mmHg
   RR: 18 (13 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.3 kg (admission): 67.3 kg
   Height: 59 Inch
             Total In:
                                                                    619 mL
                                                                    163 mL
   PO:
             TF:
   IVF:
                                                                    584 mL
                                                                    163 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    619 mL
                                                                    163 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 319 (293 - 455) mL
   PS : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 87
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: 7.31/54/103/26/0
   Ve: 5.9 L/min
   PaO2 / FiO2: 294
   Physical Examination
   GEN: Well-appearing, well-nourished, no acute distress, difficult to
   arouse but responsive
   HEENT: sclera anicteric, no epistaxis or rhinorrhea, MMM, OP Clear
   NECK: No JVD, no bruits, no cervical lymphadenopathy, trachea midline,
   right triple lumen placed at osh, left dialysis cath placed at osh
   COR: RRR, no M/G/R, normal S1 S2, radial pulses +2
   PULM: Lungs CTAB, no W/R/R
   ABD: Soft, NT, ND, +BS, no HSM, no masses, healed scar from past perc
   cct tube
   EXT: No C/C/E, no palpable cords
   Labs / Radiology
   114 K/uL
   7.9 g/dL
   78 mg/dL
   4.3 mg/dL
   26 mEq/L
   4.4 mEq/L
   38 mg/dL
   100 mEq/L
   138 mEq/L
   24.1 %
   14.7 K/uL
        [image002.jpg]
                            [**2173-10-1**]  08:22 PM
                            [**2173-10-1**]  11:50 PM
                            [**2173-10-2**]  04:19 AM
                            [**2173-10-2**]  04:29 AM
                            [**2173-10-2**]  01:47 PM
                            [**2173-10-2**]  03:35 PM
                            [**2173-10-2**]  09:33 PM
                            [**2173-10-3**]  04:04 AM
                            [**2173-10-3**]  04:16 AM
   WBC
   23.3
   14.5
   14.7
   Hct
   27.6
   25.4
   24.1
   Plt
   89
   81
   114
   Cr
   3.2
   3.5
   4.3
   TCO2
   31
   31
   31
   30
   29
   28
   Glucose
   82
   75
   78
   Other labs: PT / PTT / INR:13.9/63.0/1.2, ALT / AST:[**5-1**], Alk Phos / T
   Bili:182/1.2, Amylase / Lipase:129/169, Differential-Neuts:68.7 %,
   Band:0.0 %, Lymph:20.0 %, Mono:5.3 %, Eos:5.7 %, Albumin:2.6 g/dL,
   LDH:160 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   81 year-old female with a no significant past medical hx now with
   recent complicated hospital course due to cholecystitis and ARF who
   presents for ERCP and papilotomy.
   .
   # cholecystitis - pt underwent successfull ercp right after admission.
   stent in place.
   - will f/u with US in am
   - cont broad abx for now
   - fluids if concern for sepsis
   .
   # ARF: will call renal in am. may not require dialysis here as she may
   go back to [**Hospital3 **] in am
   - f/u volume status
   - renaly dose meds
   - avoid nephrotoxins
   - renal diet if taking po
   .
   # respiration: pt intubated during procedure for airway protection and
   given somnolence
   - cont AC
   - early transition to PS, SBT, extubation
   - HOB>30, VAP prophylaxis
   - chest pt, nebs
   .
   # somnolence: responds to verbal stimuly: associated to IV fentanyl.
   hold opioids, consider narcane
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2173-10-1**] 07:00 PM
   Dialysis Catheter - [**2173-10-1**] 07:00 PM
   20 Gauge - [**2173-10-1**] 07:53 PM
   Arterial Line - [**2173-10-1**] 11:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2173-10-04 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Renal recs- Placed foley to monitor UOP. HD for today - holding
   metoprolol prior to HD. Renally dosed zosyn
   - No ERCP recs
   - Slight guaiac +stool during day
   - Per renal- placed foley and plan for am HD- holding metoprolol prior
   to HD
   - Iron studies showed ACD. Retic count 4.1. Hemolysis labs negative
   (normal T bili, haptoglobin and LDH)
   - Pancreatic enzymes elevated at [**Doctor First Name 92**]: 348 (up from 128 [**10-1**]) Lip: 476
   (up from 169 [**10-2**])
   - Hct stable
   - Cx NGTD
   - Vanc level 24 this am. Consider dosing tomorrow with HD
   - Pt on CPAP- PS 12, PEEP 5- unable to extubate [**12-19**] incr secretions and
   somnolence with staff and pt's own family
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2173-10-4**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2173-10-3**] 08:08 AM
   Heparin Sodium (Prophylaxis) - [**2173-10-4**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-10-4**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 58 (56 - 74) bpm
   BP: 116/41(65) {110/38(60) - 137/50(80)} mmHg
   RR: 17 (12 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.3 kg (admission): 67.3 kg
   Height: 59 Inch
             Total In:
                                                                    482 mL
                                                                    133 mL
   PO:
             TF:
   IVF:
                                                                    450 mL
                                                                    133 mL
   Blood products:
   Total out:
                                                                     21 mL
                                                                      0 mL
   Urine:
                                                                     21 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    461 mL
                                                                    133 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 364 (337 - 457) mL
   PS : 8 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 78
   PIP: 18 cmH2O
   SpO2: 99%
   ABG: 7.31/50/98.[**Numeric Identifier 500**]//-1
   Ve: 5.8 L/min
   PaO2 / FiO2: 327
   Physical Examination
   GEN: NAD, Arrousable, Moving all 4 extremities equally
   HEENT: MMM with secretions
   NECK: No JVD, right triple lumen placed at osh, left dialysis cath
   placed at osh
   COR: RRR, no M/G/R, normal S1 S2,
   PULM: Lungs CTAB, no W/R/R
   ABD: Soft, NT, ND, +BS, healed scar from past perc cct tube
   EXT: 3+ edema in U and LE bilaterally
   Labs / Radiology
   114 K/uL
   7.9 g/dL
   78 mg/dL
   4.3 mg/dL
   26 mEq/L
   4.4 mEq/L
   38 mg/dL
   100 mEq/L
   138 mEq/L
   24.7 %
   14.7 K/uL
        [image002.jpg]
                            [**2173-10-2**]  04:29 AM
                            [**2173-10-2**]  01:47 PM
                            [**2173-10-2**]  03:35 PM
                            [**2173-10-2**]  09:33 PM
                            [**2173-10-3**]  04:04 AM
                            [**2173-10-3**]  04:16 AM
                            [**2173-10-3**]  11:49 AM
                            [**2173-10-3**]  01:25 PM
                            [**2173-10-3**]  03:45 PM
                            [**2173-10-4**]  01:14 AM
   WBC
   14.7
   Hct
   24.1
   24.7
   Plt
   114
   Cr
   4.3
   TCO2
   31
   31
   30
   29
   28
   28
   27
   26
   Glucose
   78
   Other labs: PT / PTT / INR:13.9/63.0/1.2, ALT / AST:[**5-1**], Alk Phos / T
   Bili:182/1.0, Amylase / Lipase:348/476, Differential-Neuts:68.7 %,
   Band:0.0 %, Lymph:20.0 %, Mono:5.3 %, Eos:5.7 %, Fibrinogen:446 mg/dL,
   Albumin:2.6 g/dL, LDH:186 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:4.9
   mg/dL
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Discharge planning
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 IMPAIRED SKIN INTEGRITY
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 CHOLECYSTITIS, CALCULOUS
   81 year-old female with recent complicated hospital course [**12-19**]
   cholecystitis and ARF now s/p ERCP and papilotomy.
   .
   # Respiration Failure: Pt intubated during procedure for airway
   protection. Improved gas overnight, now on [**6-22**] with 30% O2.
   - Potential extubation today
   - Dialysis today (may help with extubation)
   - Cont chest pt, nebs
   - Will assess her CVP
   .
   # Cholecystitis - Successful ercp with stent in place. Cont Vanc and
   Zosyn.
   - Redose vanc with dialysis
   - cont broad abx for now
   - fluids if concern for sepsis
   .
   # Anemia: Patient Hct stable at 24.  Per nurse, small vaginal bleeding
   today - ? traumatic foley placement
   - monitor Hct [**Hospital1 **]
   .
   # Diarrhea: New today.
   - Send Stool for C. diff
   .
   # Elevated PTT
 unclear etiology.  Has been steadily inceasing for
   past few days, but may be spurious result from heparinized line.
   Normal INR.
   - Continue to monitor
   - Send Lupus anticoagulant
   .
   # ARF: Pt appears fluid overloaded in upper extremities, lungs do not
   appear overloaded
   - Dialysis today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2173-10-1**] 07:00 PM
   Dialysis Catheter - [**2173-10-1**] 07:00 PM
   20 Gauge - [**2173-10-1**] 07:53 PM
   Arterial Line - [**2173-10-1**] 11:20 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2173-10-04 09:39:00 Physician Attending Progress Note
Chief Complaint: Cholangitis, pneumonia, respiratory failure, acute
   renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient remains on ventilator through the weekend in large part because
   of volume overload. Patient has minimal urine output.
    Patient remains on broad spectrum antibiotics. Afebrile.
   Stool brown but guiaic positive. Hct stable.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2173-10-4**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2173-10-4**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2173-10-4**] 08:30 AM
   Other medications:
   Albuterol, chlorhexidine, lopressor, vanco
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-10-4**] 09:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.5
   HR: 58 (56 - 70) bpm
   BP: 116/41(65) {110/38(60) - 137/50(80)} mmHg
   RR: 17 (12 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.6 kg (admission): 67.3 kg
   Height: 59 Inch
             Total In:
                                                                    482 mL
                                                                    146 mL
   PO:
             TF:
   IVF:
                                                                    450 mL
                                                                    146 mL
   Blood products:
   Total out:
                                                                     21 mL
                                                                      0 mL
   Urine:
                                                                     21 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    461 mL
                                                                    146 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 432 (337 - 457) mL
   PS : 8 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 78
   PIP: 14 cmH2O
   SpO2: 97%
   ABG: 7.31/50/98.[**Numeric Identifier 500**]/23/-1
   Ve: 5.7 L/min
   PaO2 / FiO2: 327
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , Crackles : Coarse diffusely, No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Not able to assess on ET tube, Movement:
   Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   136 K/uL
   80 mg/dL
   5.3 mg/dL
   23 mEq/L
   4.7 mEq/L
   50 mg/dL
   97 mEq/L
   135 mEq/L
   25.1 %
   13.1 K/uL
        [image002.jpg]
                            [**2173-10-2**]  01:47 PM
                            [**2173-10-2**]  03:35 PM
                            [**2173-10-2**]  09:33 PM
                            [**2173-10-3**]  04:04 AM
                            [**2173-10-3**]  04:16 AM
                            [**2173-10-3**]  11:49 AM
                            [**2173-10-3**]  01:25 PM
                            [**2173-10-3**]  03:45 PM
                            [**2173-10-4**]  01:14 AM
                            [**2173-10-4**]  05:14 AM
   WBC
   14.7
   13.1
   Hct
   24.1
   24.7
   25.1
   Plt
   114
   136
   Cr
   4.3
   5.3
   TCO2
   31
   30
   29
   28
   28
   27
   26
   Glucose
   78
   80
   Other labs: PT / PTT / INR:12.8/70.1/1.1, ALT / AST:[**2-25**], Alk Phos / T
   Bili:195/0.9, Amylase / Lipase:348/476, Differential-Neuts:68.7 %,
   Band:0.0 %, Lymph:20.0 %, Mono:5.3 %, Eos:5.7 %, Fibrinogen:446 mg/dL,
   Albumin:2.6 g/dL, LDH:157 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:6.3
   mg/dL
   CXR: not available; problem with PACS system.
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Discharge planning
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 IMPAIRED SKIN INTEGRITY
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 CHOLECYSTITIS, CALCULOUS
   PNEUMONIA
   ANEMIA
   Oxygenation excellent on 30% FIO2. During rounds, PSV placed on zero
   for 10 mins with no significant change in VT or respiratory rate.
   Patient appeared comfortable. RSBI > 50. Patient to have dialysis
   today. Check CVP. If in normal range, would consider extubation post
   dialysis if RSBI remains good.
   Dialysis due today. Patient with anion gap acidosis, likely due to
   acute renal failure. Suspect underlying chronic respiratory acidosis
   given the delta-delta calculation, which would put her pre-renal
   failure bicarb at 29-29.
   Hct has been stable at 25; some vaginal bleeding noted today.
   Patient has had diarrhea today. Check C. diff.
   Continues on antibiotics for cholangitis and pneumonia. Afebrile, WBC
   trending down.
   Isolated elevation PTT; check lupus anti-coagulant.
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2173-10-1**] 07:00 PM
   Dialysis Catheter - [**2173-10-1**] 07:00 PM
   20 Gauge - [**2173-10-1**] 07:53 PM
   Arterial Line - [**2173-10-1**] 11:20 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2173-10-05 06:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Did not dose Vanc as trough after dialysis was 19 (redose at 15
   usually). Recheck in AM.
   - repeat UA with >1000 RBC and WBC.
   - Did not attempt extubation as patient had no cuff leak.
   - Given Solumedrol and check again late afternoon but only small cuff
   leak.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2173-10-4**] 10:50 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2173-10-4**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2173-10-5**] 12:01 AM
   Other medications:
   Changes to medical and family history: No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems: Unable to obtain
   Flowsheet Data as of  [**2173-10-5**] 06:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.8
   HR: 71 (61 - 91) bpm
   BP: 126/46(73) {94/33(49) - 138/50(78)} mmHg
   RR: 17 (12 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.6 kg (admission): 60.5 kg
   Height: 59 Inch
    CVP: 4 (3 - 8)mmHg
   Total In:
                                                                    320 mL
                                                                     31 mL
   PO:
   TF:
   IVF:
                                                                    320 mL
                                                                     31 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,680 mL
                                                                     31 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 383 (350 - 437) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 25
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: ///25/
   Ve: 5.5 L/min
   Physical Examination
   GEN: NAD, Arrousable, Moving all 4 extremities equally
   HEENT: MMM with secretions
   NECK: No JVD, right triple lumen placed at osh, left dialysis cath
   placed at osh
   COR: RRR, no M/G/R, normal S1 S2,
   PULM: Lungs CTAB, no W/R/R
   ABD: Soft, NT, ND, +BS, healed scar from past perc cct tube
   EXT: 2+ edema in U (L>R) and 1+ LE bilaterally
   Labs / Radiology
   136 K/uL
   7.3 g/dL
   120 mg/dL
   4.4 mg/dL
   25 mEq/L
   4.8 mEq/L
   46 mg/dL
   100 mEq/L
   138 mEq/L
   22.9 %
   10.8 K/uL
        [image002.jpg]
                            [**2173-10-2**]  03:35 PM
                            [**2173-10-2**]  09:33 PM
                            [**2173-10-3**]  04:04 AM
                            [**2173-10-3**]  04:16 AM
                            [**2173-10-3**]  11:49 AM
                            [**2173-10-3**]  01:25 PM
                            [**2173-10-3**]  03:45 PM
                            [**2173-10-4**]  01:14 AM
                            [**2173-10-4**]  05:14 AM
                            [**2173-10-5**]  03:35 AM
   WBC
   14.7
   13.1
   10.8
   Hct
   24.1
   24.7
   25.1
   22.9
   Plt
   114
   136
   Cr
   4.3
   5.3
   4.4
   TCO2
   30
   29
   28
   28
   27
   26
   Glucose
   78
   80
   120
   Other labs: PT / PTT / INR:12.8/58.4/1.1, ALT / AST:[**2-27**], Alk Phos / T
   Bili:210/0.8, Amylase / Lipase:348/476, Differential-Neuts:68.7 %,
   Band:0.0 %, Lymph:20.0 %, Mono:5.3 %, Eos:5.7 %, Fibrinogen:446 mg/dL,
   Albumin:2.6 g/dL, LDH:157 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:5.9
   mg/dL
   Assessment and Plan
   81 year-old female with recent complicated hospital course [**12-19**]
   cholecystitis and ARF now s/p ERCP and papilotomy.
   .
   # Respiration Failure: Pt on [**3-22**] overnight. No cuff leak however.
   - Will extubate this AM
   - Consider dialysis today vs tomorrow
   - Cont chest pt, nebs
   .
   # Cholecystitis
 Afebrile. Mild leaukocytosis in setting of steroids.
   Cont Vanc and Zosyn. (day #4 of each while at [**Hospital1 **])
   - Vanc dosing with dialysis
   .
   # Anemia:  Hct to 22.9 today from 24. Likely mulitfactorial: Given
   Retic of 4 and question traumatic foley vs vaginal bleeding. As source
   of blood loss. In addition pt has Iron Studies indicative of AICD in pt
   now on dialysis following ARF.
   - 1 pRBCs with dialysis today vs tomorrow.
   - monitor Hct [**Hospital1 **]
   .
   # Elevated PTT
 Sent Lupus Anticoagulant overnight but was cancelled
   [**12-19**] increased thrombin. Currently remains on SQH.
   - Hold SQH and consider re-checking thrombin and other factor studies
   in a few days
   - Pneumoboots
   .
   # ARF: Pt 59kg today, was 60kg on arrival. Unclear baseline.
   -          Dialysis today vs tomorrow.
   -          Look at OSH records for weight on presentation prior to
   surgery
   ICU Care
   Nutrition: Currently NPO will provide diet following extubation
   Glycemic Control:
   Lines:
   Multi Lumen - [**2173-10-1**] 07:00 PM
   Dialysis Catheter - [**2173-10-1**] 07:00 PM
   20 Gauge - [**2173-10-1**] 07:53 PM
   Arterial Line - [**2173-10-1**] 11:20 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer:  PPi
   Communication:  Comments:
   Code status: No chest compressions
   Disposition: [**Hospital Unit Name 10**], potential transfer to [**Hospital1 **] following stabilization

2173-10-05 11:50:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, cholangitis, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient given steroids overnight for possible laryngeal edema. No cuff
   leak this AM. Stable on pressure support ventilation.
   Hct drifting down. WBC coming down. Patient still on Zosyn. Afebrile.
   Stool is guiaic positive.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2173-10-5**] 06:58 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2173-10-5**] 09:56 AM
   Other medications:
   protonix, albuterol, chlorhexidine, lopressor, dexamethasone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-10-5**] 11:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.2
C (97.2
   HR: 73 (62 - 91) bpm
   BP: 159/50(88) {94/33(49) - 159/56(91)} mmHg
   RR: 15 (14 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.7 kg (admission): 60.5 kg
   Height: 59 Inch
   CVP: 12 (3 - 12)mmHg
   Total In:
                                                                    320 mL
                                                                    108 mL
   PO:
   TF:
   IVF:
                                                                    320 mL
                                                                    108 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                      8 mL
   Urine:
                                                                      8 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,680 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 426 (350 - 437) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 25
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 5.9 L/min
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anteriorally and laterally, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Not able to assess, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   7.3 g/dL
   78 K/uL
   120 mg/dL
   4.4 mg/dL
   25 mEq/L
   4.8 mEq/L
   46 mg/dL
   100 mEq/L
   138 mEq/L
   22.9 %
   10.8 K/uL
        [image002.jpg]
                            [**2173-10-2**]  03:35 PM
                            [**2173-10-2**]  09:33 PM
                            [**2173-10-3**]  04:04 AM
                            [**2173-10-3**]  04:16 AM
                            [**2173-10-3**]  11:49 AM
                            [**2173-10-3**]  01:25 PM
                            [**2173-10-3**]  03:45 PM
                            [**2173-10-4**]  01:14 AM
                            [**2173-10-4**]  05:14 AM
                            [**2173-10-5**]  03:35 AM
   WBC
   14.7
   13.1
   10.8
   Hct
   24.1
   24.7
   25.1
   22.9
   Plt
   114
   136
   78
   Cr
   4.3
   5.3
   4.4
   TCO2
   30
   29
   28
   28
   27
   26
   Glucose
   78
   80
   120
   Other labs: PT / PTT / INR:12.8/58.4/1.1, ALT / AST:[**2-27**], Alk Phos / T
   Bili:210/0.8, Amylase / Lipase:348/476, Differential-Neuts:68.7 %,
   Band:0.0 %, Lymph:20.0 %, Mono:5.3 %, Eos:5.7 %, Fibrinogen:446 mg/dL,
   Albumin:2.6 g/dL, LDH:157 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:5.9
   mg/dL
   Imaging: CXR: mild increase in vascular markings at right base compared
   to [**10-4**].
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Discharge planning
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 IMPAIRED SKIN INTEGRITY
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 CHOLECYSTITIS, CALCULOUS
   ANEMIA
   Patient with minimal air leak with cuff down and when patient on assist
   control. Has had 24 hours of steroids. Will proceed with extubation and
   observe closely. Weight is now below admission weight following
   dialysis.
   Hct drifing down with evidence of GI bleeding. Will stop sc heparin in
   setting of elevated PTT and start compression boots. Not yet at
   threshold for transfusion.
   Continues on antibiotics for cholangitis
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2173-10-1**] 07:00 PM
   Dialysis Catheter - [**2173-10-1**] 07:00 PM
   Arterial Line - [**2173-10-1**] 11:20 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2173-10-06 07:23:00 Physician Resident Progress Note
Chief Complaint: Cholecystitis, ARF
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2173-10-5**] 12:01 PM
   - Pt extubated in AM without complication
   - D/C'd Heparin for Pneumoboots
   - D/C'd Pneumoboots
   - Spoke to Dr.[**First Name (STitle) **] at [**Hospital1 183**]. Hospitalists are changing as of the
   morning. Did not want to sign out new pt to hospitalist. Prefers we
   keep pt here.
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2173-10-6**] 05:54 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2173-10-5**] 09:56 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain [**12-19**] language barrier
   Flowsheet Data as of  [**2173-10-6**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.8
C (96.4
   HR: 52 (51 - 73) bpm
   BP: 165/59(98) {109/37(60) - 179/70(111)} mmHg
   RR: 15 (15 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 59.7 kg (admission): 60.5 kg
   Height: 59 Inch
    CVP: 14 (6 - 14)mmHg
   Total In:
                                                                    270 mL
                                                                     87 mL
   PO:
   TF:
   IVF:
                                                                    270 mL
                                                                     87 mL
   Blood products:
   Total out:
                                                                      8 mL
                                                                      0 mL
   Urine:
                                                                      8 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    262 mL
                                                                     87 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP
   Vt (Spontaneous): 426 (426 - 426) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 0 cmH2O
   FiO2: 35%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.28/49/91/21/-3
   Ve: 4.8 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: at bases r>L)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   120 K/uL
   7.3 g/dL
   150 mg/dL
   5.0 mg/dL
   21 mEq/L
   4.7 mEq/L
   67 mg/dL
   99 mEq/L
   138 mEq/L
   22.5 %
   4.5 K/uL
        [image002.jpg]
                            [**2173-10-3**]  04:16 AM
                            [**2173-10-3**]  11:49 AM
                            [**2173-10-3**]  01:25 PM
                            [**2173-10-3**]  03:45 PM
                            [**2173-10-4**]  01:14 AM
                            [**2173-10-4**]  05:14 AM
                            [**2173-10-5**]  03:35 AM
                            [**2173-10-5**]  11:34 AM
                            [**2173-10-5**]  05:59 PM
                            [**2173-10-6**]  03:08 AM
   WBC
   13.1
   10.8
   4.5
   Hct
   24.7
   25.1
   22.9
   23.9
   22.5
   Plt
   136
   78
   120
   Cr
   5.3
   4.4
   5.0
   TCO2
   28
   28
   27
   26
   24
   Glucose
   80
   120
   150
   Other labs: PT / PTT / INR:13.0/46.6/1.1, ALT / AST:[**2-27**], Alk Phos / T
   Bili:210/0.8, Amylase / Lipase:348/476, Differential-Neuts:68.7 %,
   Band:0.0 %, Lymph:20.0 %, Mono:5.3 %, Eos:5.7 %, Fibrinogen:446 mg/dL,
   Albumin:2.6 g/dL, LDH:157 IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:7.5
   mg/dL
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Discharge planning
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 IMPAIRED SKIN INTEGRITY
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 CHOLECYSTITIS, CALCULOUS
   81 year-old female with recent complicated hospital course [**12-19**]
   cholecystitis and ARF now s/p ERCP and papilotomy.
   .
   # Respiration Failure: Pt on [**3-22**] overnight. No cuff leak however.
   - Will extubate this AM
   - Consider dialysis today vs tomorrow
   - Cont chest pt, nebs
   .
   # Cholecystitis
 Afebrile. Mild leaukocytosis in setting of steroids.
   Cont Vanc and Zosyn. (day #4 of each while at [**Hospital1 **])
   - Vanc dosing with dialysis
   .
   # Anemia:  Hct to 22.9 today from 24. Likely mulitfactorial: Given
   Retic of 4 and question traumatic foley vs vaginal bleeding. As source
   of blood loss. In addition pt has Iron Studies indicative of AICD in pt
   now on dialysis following ARF.
   - 1 pRBCs with dialysis today vs tomorrow.
   - monitor Hct [**Hospital1 **]
   .
   # Elevated PTT
 Sent Lupus Anticoagulant overnight but was cancelled
   [**12-19**] increased thrombin. Currently remains on SQH.
   - Hold SQH and consider re-checking thrombin and other factor studies
   in a few days
   - Pneumoboots
   .
   # ARF: Pt 59kg today, was 60kg on arrival. Unclear baseline.
   -          Dialysis today vs tomorrow.
   -          Look at OSH records for weight on presentation prior to
   surgery
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2173-10-1**] 07:00 PM
   Dialysis Catheter - [**2173-10-1**] 07:00 PM
   Arterial Line - [**2173-10-1**] 11:20 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:Transfer to floor

2173-10-06 11:37:00 Physician Attending Progress Note
Chief Complaint: Acute Respiratory failure, cholangitis.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Extubated yesterday. One episode of desaturation on nasal cannula; then
   placed on mask.
   Stool guiaic positive.
   Afebrile
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2173-10-5**] 12:01 PM
   History obtained from Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2173-10-6**] 05:54 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2173-10-6**] 07:24 AM
   Other medications:
   Metoprolol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-10-6**] 11:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.3
C (95.5
   HR: 49 (49 - 73) bpm
   BP: 164/56(94) {109/37(60) - 179/70(111)} mmHg
   RR: 13 (13 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 59.7 kg (admission): 60.5 kg
   Height: 59 Inch
   CVP: 11 (6 - 14)mmHg
   Total In:
                                                                    270 mL
                                                                    117 mL
   PO:
   TF:
   IVF:
                                                                    270 mL
                                                                    117 mL
   Blood products:
   Total out:
                                                                      8 mL
                                                                      0 mL
   Urine:
                                                                      8 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    262 mL
                                                                    117 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP
   RR (Spontaneous): 15
   PEEP: 0 cmH2O
   FiO2: 2%
   SpO2: 100%
   ABG: 7.28/49/91/21/-3
   Ve: 4.8 L/min
   PaO2 / FiO2: 4,550
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , Crackles : Dependent, laterally, No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: 3+ edema thigh, Left: 3+ edema thigh, No(t)
   Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Cannot
   assess due to language barrier, Oriented (to): Cannot assess due to
   language barrier, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed,
   Tone: Not assessed
   Labs / Radiology
   7.3 g/dL
   120 K/uL
   150 mg/dL
   5.0 mg/dL
   21 mEq/L
   4.7 mEq/L
   67 mg/dL
   99 mEq/L
   138 mEq/L
   22.5 %
   4.5 K/uL
        [image002.jpg]
                            [**2173-10-3**]  04:16 AM
                            [**2173-10-3**]  11:49 AM
                            [**2173-10-3**]  01:25 PM
                            [**2173-10-3**]  03:45 PM
                            [**2173-10-4**]  01:14 AM
                            [**2173-10-4**]  05:14 AM
                            [**2173-10-5**]  03:35 AM
                            [**2173-10-5**]  11:34 AM
                            [**2173-10-5**]  05:59 PM
                            [**2173-10-6**]  03:08 AM
   WBC
   13.1
   10.8
   4.5
   Hct
   24.7
   25.1
   22.9
   23.9
   22.5
   Plt
   136
   78
   120
   Cr
   5.3
   4.4
   5.0
   TCO2
   28
   28
   27
   26
   24
   Glucose
   80
   120
   150
   Other labs: PT / PTT / INR:13.0/46.6/1.1, ALT / AST:[**2-27**], Alk Phos / T
   Bili:210/0.8, Amylase / Lipase:348/476, Differential-Neuts:68.7 %,
   Band:0.0 %, Lymph:20.0 %, Mono:5.3 %, Eos:5.7 %, Fibrinogen:446 mg/dL,
   Albumin:2.6 g/dL, LDH:157 IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:7.5
   mg/dL
   Imaging: CXR: more obscuring of left hemidiaphragm
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Discharge planning
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 IMPAIRED SKIN INTEGRITY
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 CHOLECYSTITIS, CALCULOUS
   ACUTE RESPIRATORY FAILURE
   GI BLEED
   ANEMIA
   CHRONIC RENAL FAIULRE
   Patient doing well extubation. Good oxygenation. No evidence of
   respiratory distress.
   Slow GI bleeding persists. Patient to be transfused during dialysis.
   Electrolytes acceptable.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2173-10-1**] 07:00 PM
   Dialysis Catheter - [**2173-10-1**] 07:00 PM
   Arterial Line - [**2173-10-1**] 11:20 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:  25